US07417009B2
Xylene (15 g), behenyl methacrylate (15 g), lauryl acrylate (2 g), are charged to a reactor equipped with a stirrer, a heater, a thermometer, and a nitrogen-bubbling duct. The reactor is flushed with nitrogen gas and sealed. Then vinyl acetate (2 g) is charged. The reactor is heated to 60° C. and 2,2′-azobis(2-methyl, ethyl-propionitrile) (0.06 g) is added. The reaction mixture is heated in the closed system at 75° C. for one hour, at 90° C. for 30 minutes, and at 110° C. for one hour to provide behenyl methacrylate/lauryl acrylate/vinyl acetate polymer having a number average molecular weight of 41,008 Daltons with polydispersity 3.4. The viscosity of the polymer is 135 cP at 20° C. as a 40% solution in toluene.

reactant | behenyl methacrylate | 15 g | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C26H50O2
reactant | lauryl acrylate | 2 g | C(C=C)(=O)OCCCCCCCCCCCC | C15H28O2
solvent | Xylene | 15 g | C=1(C(=CC=CC1)C)C | C8H10
product | behenyl methacrylate lauryl acrylate vinyl acetate | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCCCCCC.C(C=C)(=O)OCCCCCCCCCCCC.C(C)(=O)OC=C | InChI=1S/C26H50O2.C15H28O2.C4H6O2/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-28-26(27)25(2)3;1-3-5-6-7-8-9-10-11-12-13-14-17-15(16)4-2;1-3-6-4(2)5/h2,4-24H2,1,3H3;4H,2-3,5-14H2,1H3;3H,1H2,2H3
